US07851473B2
N-(3,5-Dimethylisoxazol-4-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and triethylamine (0.113 ml, 0.812 mmol) in tetrahydrofuran (2.5 ml) was added 3,5-dimethylisoxazol-4-yl isocyanate (168 mg, 1.22 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and ethyl acetate to give 214 mg (68.6%) of the desired product as a solid.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 0.812 mmol, 0.113 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethylisoxazol-4-yl isocyanate | 1.22 mmol, 168 mg | CC1=NOC(=C1N=C=O)C | C6H6N2O2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | N-(3,5-Dimethylisoxazol-4-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 214 mg, 68.6% | CC1=NOC(=C1NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1)C | C18H20N6O2S
